US05053509
2,3,4-Trifluoroaniline (58.8 g) is added in a single portion with stirring to a solution of 2-ethoxycarbonyl-1-ethoxyethylideneamine hydrochloride (90 g) in ethanol (820 cc). After 48 hours' stirring at a temperature in the region of 20° C., the suspension obtained is filtered; the filtrate is concentrated under reduced pressure (20 kPa) at a temperature in the region of 50° C. The oily residue is taken up with water (250 cc). The mixture obtained is extracted with ethyl ether (3×200 cc). The combined organic extracts are washed with water (4×150 cc), dried over magnesium sulphate and concentrated under reduced pressure (20 kPa) at approximately 30° C. 2,3,4-Trifluoro-N-[1-ethoxy-2-(ethoxycarbonyl)ethylidene]aniline (122 g) is obtained in the form of a yellow oil, which is used without further purification for the subsequent steps.

reactant | 2,3,4-Trifluoroaniline | 58.8 g | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | 2-ethoxycarbonyl-1-ethoxyethylideneamine hydrochloride | 90 g | Cl.C(C)OC(=O)CC(OCC)=N
solvent | ethanol | 820 cc | C(C)O | C2H6O
product | 2,3,4-Trifluoro-N-[1-ethoxy-2-(ethoxycarbonyl)ethylidene]aniline | 122 g | FC1=C(N=C(CC(=O)OCC)OCC)C=CC(=C1F)F | C13H14F3NO3
